US07595397B2
This compound could be made the following manner: 100 mg of 3-phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine would be dissolved in acetonitrile, 3 equiv. of N,N-diisopropylethylamine would be added followed by 1.1 equiv. of iodomethane. The reaction would be stirred at 80° C. overnight. The reaction would be diluted with dichloromethane and washed with 1N aqueous NaOH solution. The organic layer would be dried over Na2SO4, filtered and concentrated in vacuo. The crude residue would be purified by column chromatography to afford 1-methyl-2-phenyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazine.

reactant | 3-phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperazine | 100 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C24H23F3N2
reactant | N,N-diisopropylethylamine | 3 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodomethane | 1.1 equiv. | IC | CH3I
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-methyl-2-phenyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazine | CN1C(CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C24H25ClN2
